US07378415B2
Using the procedure reported in Chem. Pharm. Bull. 40(2), 351-6, 1992, sodium hydride (60% suspension in mineral oil, 1.26 g, 44 mmol) was added to 40 mL of dimethyl formamide (DMF) at 0° C., and a solution of benzenethiol (2.25 g, 22 mmol) in 5 mL of DMF was added dropwise over five minutes, followed by stirring for 30 minutes. A solution of 4-chloro-2-methoxy-1-nitro-benzene (3.25 g, 20 mmol) in 25 mL of DMF was then added dropwise to the reaction mixture over 30 minutes, after which stirring was continued for another hour. Sixty mL of water was added to the reaction mixture, and a solid precipitated and was collected and dried under vacuum to yield 4.63 g (17.7 mmol, 89%) of 2-methoxy-1-nitro-4-phenylsulfanyl-benzene. MS: 262 (M+H)+.

reactant | sodium hydride | 44 mmol, 1.26 g | [H-].[Na+]
reactant | benzenethiol | 22 mmol, 2.25 g | C1(=CC=CC=C1)S | C6H6S
reactant | 4-chloro-2-methoxy-1-nitro-benzene | 20 mmol, 3.25 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | water | Sixty mL | O | H2O
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
solvent | DMF | 25 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 40 mL | CN(C=O)C | C3H7NO
product | 2-methoxy-1-nitro-4-phenylsulfanyl-benzene | 17.7 mmol, 4.63 g, 89% | COC1=C(C=CC(=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C13H11NO3S
